US06231833B1
(7RS,9aSR)-7-Phenoxymethyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was prepared according to Example 15 using 2,5-dichloropyridine, (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (U.S. Pat. No. 5,326,874), and phenol. mp (—HCl) 218-224° C. 13C NMR (base, CDCl3): δ27.0, 29.1, 36.4, 45.3, 50.9, 54.6, 58.8, 60.5, 70.9, 107.8, 114.5, 120.1, 120.7, 129.4, 137.1, 146.2, 157.6, 159.0. Anal. calcd for C20H24ClN3O C, 67.12; H, 6.76; N, 11.74; found: C, 67.22; H, 6.85; N, 11.49.

reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | OCC1CCC2N(CCNC2)C1 | C9H18N2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | Cl | ClH
product | (7RS,9aSR)-7-Phenoxymethyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | O(C1=CC=CC=C1)CC1CCC2N(CCN(C2)C2=NC=C(C=C2)Cl)C1 | C20H24ClN3O
